US06919331B2
N-[2-(3-Isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazol-5-ylmethyl]-methanesulfonamide was prepared by the same procedure as N-[2-(3-isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazol-5-ylmethyl]-acetamide, except using methanesulfonyl chloride.

reactant | N-[2-(3-isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazol-5-ylmethyl]-acetamide | C(C)(C)N1C(N(C2=C1C=CC=C2)CC2=NC1=C(N2CCC(C)C)C=CC(=C1)CNC(C)=O)=O | C26H33N5O2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | N-[2-(3-Isopropyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazol-5-ylmethyl]-methanesulfonamide | C(C)(C)N1C(N(C2=C1C=CC=C2)CC2=NC1=C(N2CCC(C)C)C=CC(=C1)CNS(=O)(=O)C)=O | C25H33N5O3S
